US04598077
To 14 g of methyl β-amino-β-(4-methylphenyl)propionate hydrochloride, were added 200 ml of ethyl acetate and 10.2 ml of triethylamine. The mixture was stirred at room temperature for 30 minutes, then washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure. To the residue, was added 8.5 g of phthalic anhydride. The mixture was stirred at 150° to 155° C. for one hour and recrystallized from an ether-n-hexane mixture to yield 15 g of methyl β-phthalimido-β-(4-methylphenyl)propionate; m.p. 97°-99° C.

reactant | methyl β-amino-β-(4-methylphenyl)propionate hydrochloride | 14 g | Cl.NC(CC(=O)OC)C1=CC=C(C=C1)C
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 10.2 ml | C(C)N(CC)CC | C6H15N
product | methyl β-phthalimido-β-(4-methylphenyl)propionate | 15 g | C1(C=2C(C(N1C(CC(=O)OC)C1=CC=C(C=C1)C)=O)=CC=CC2)=O | C19H17NO4
